US09447074B2
Intermediate 34, 1-(3-bromo-4-{[(4-chloro-2-pyridinyl)methyl]oxy}phenyl)ethanone
To a stirred solution of (4-chloro-2-pyridinyl)methanol (Commercial eg Aldrich) (0.2 g) in THF (5 ml) were added 1-(3-bromo-4-hydroxyphenyl)ethanone (0.3 g) and triphenylphosphine (0.547 g). This was stirred for 10 min before cooling and adding slowly DEAD (0.363 g). This was stirred for 16 h. The reaction mixture was partitioned between water and ethyl acetate. The aqueous was reextracted with ethyl acetate and the combined organics were washed with brine, dried over sodium sulfate and concentrated in vacuo. This was purified through silica eluting with 0-35% ethyl acetate in hexane to give the title compound, 0.30 g

reactant | (4-chloro-2-pyridinyl)methanol | 0.2 g | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | 1-(3-bromo-4-hydroxyphenyl)ethanone | 0.3 g | BrC=1C=C(C=CC1O)C(C)=O | C8H7BrO2
reactant | triphenylphosphine | 0.547 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.363 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3-bromo-4-{[(4-chloro-2-pyridinyl)methyl]oxy}phenyl)ethanone | BrC=1C=C(C=CC1OCC1=NC=CC(=C1)Cl)C(C)=O | C14H11BrClNO2
